US07452893B2
Step 4: trans-2-[4-(2-Fluoro-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione
To a stirred solution of 1 g of trans-2-[4-(2-hydroxy-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione in 100 mL of dichloromethane cooled to −78° C. under nitrogen atmosphere was added 1.2 g of diethyl-amino sulfur-trifluoride. The mixture was allowed to warm and stir for 24 h, then quenched with 25 mL of saturated sodium carbonate. After stirring for 15 min, the mixture was diluted with 25 mL of dichloromethane and the layers separated. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. Chromatography over silica gel eluting with a gradient of 2%-30% ethyl acetate in hexane gave 0.7 g of product as a white crystalline solid: 1H NMR (400 MHz, CDCl3) 7.8 (m, 2H), 7.7 (t, 1H), 7.4-7.3 (m, 5H), 5.6 (dd, 1H), 4.1 (m, 1H), 3.9-3.65 (complex m, 2H), 3.45 (m, 1H), 2.3 (dd, 2H), 2.2 (m, 2H), 1.8 (d, 2H), 1.4 (dd, 2H).

reactant | trans-2-[4-(2-hydroxy-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione | 1 g | OC(CO[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C22H23NO4
reactant | diethyl-amino sulfur-trifluoride | 1.2 g | C(C)S(N)(CC)(F)(F)F | C4H12F3NS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | trans-2-[4-(2-Fluoro-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione | 0.7 g | FC(CO[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C22H22FNO3
